US06365752B1
The starting material for the abovementioned synthetic route a), viz. N-benzyl-aminoacetonitrile, is prepared by reaction of benzylamine and formaldehyde with the extremely toxic hydrocyanic acid (see also Tetrahedron Letters [23], 27 (1982), 2741-4). The starting material for the synthetic route b), viz. N-benzylglycine, also firstly has to be prepared by reaction of glycine with benzyl chloride or of chloroacetic acid with benzylamine. The reaction of N-benzylaminoacetonitrile or N-benzylglycine as per a) or b) is carried out either by fusion with urea for a long time or by reaction with the toxic cyanic acid. Both methods give 1-benzyl-hydantoin in only low yields: thus, according to Huaxue Shiji 1993, 15(1) 15-16, the reaction of N-benzylglycine (obtained by reaction of benzylarnine with chloroacetic acid) with cyanic acid gives 1-benzylhydantoin in a yield of only 39.5% and the reaction of N-benzylglycine with urea gives 1-benzylhydantoin in a yield of only 45.6%. The subsequent bromination of the 1-benzylhydantoin and treatment with ethanol again proceeds in only a low yield of 42.7%.

reactant | N-benzylglycine | C(C1=CC=CC=C1)NCC(=O)O | C9H11NO2
reactant | cyanic acid | N#CO | CHNO
product | 1-benzylhydantoin | C(C1=CC=CC=C1)N1C(=O)NC(=O)C1 | C10H10N2O2
